US08349865B2
Step 2: 5-[(4-Acetyl-2,6-dichlorophenyl)amino]-9-[2-(1-hydroxy-1-methylethyl)-1,3-thiazol-4-yl]benzo[c]-2,6-naphthyridin-1(2H)-one
To a solution of 5-[(4-acetyl-2,6-dichlorophenyl)amino]-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[c]-2,6-naphthyridin-1(2H)-one (135 mg, 0.26 mmol) in THF (4 mL) was added 2-(4-bromo-1,3-thiazol-2-yl)propan-2-ol (114 mg, 0.52 mmol), Pd(Ph3P)4 (60 mg, 0.05 mmol) and sodium carbonate (0.129 mL, 0.26 mmol, 2M in water). The reaction was heated to 80° C. for 16 h. The reaction was diluted with ethyl acetate and extracted with water. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound.

reactant | 5-[(4-acetyl-2,6-dichlorophenyl)amino]-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[c]-2,6-naphthyridin-1(2H)-one | 0.26 mmol, 135 mg | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)B2OC(C(O2)(C)C)(C)C)Cl | C26H24BCl2N3O4
reactant | 2-(4-bromo-1,3-thiazol-2-yl)propan-2-ol | 0.52 mmol, 114 mg | BrC=1N=C(SC1)C(C)(C)O | C6H8BrNOS
reactant | sodium carbonate | 0.26 mmol, 2M, 0.129 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)4 | 0.05 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[(4-Acetyl-2,6-dichlorophenyl)amino]-9-[2-(1-hydroxy-1-methylethyl)-1,3-thiazol-4-yl]benzo[c]-2,6-naphthyridin-1(2H)-one | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)C=2N=C(SC2)C(C)(C)O)Cl | C26H20Cl2N4O3S
